US09233956B2
Step C: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using {3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}amine (500 mg, 1.313 mmol) and 2,6-difluorobenzenesulfonyl chloride (0.214 mL, 1.575 mmol) the title compound of Step C was obtained as a light yellow solid (653 mg, 89% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.88 (s, 1H), 8.63 (d, J=5.3 Hz, 1H), 7.63-7.74 (m, 1H), 7.52 (td, J=8.7, 6.0 Hz, 1H), 7.17-7.35 (m, 3H), 6.99 (d, J=5.3 Hz, 1H), 1.42 (s, 9H). MS (ESI): 556 [M+H]+.

reactant | {3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}amine | 1.313 mmol, 500 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1F)N)F | C17H15ClF2N4S
reactant | 2,6-difluorobenzenesulfonyl chloride | 1.575 mmol, 0.214 mL | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,6-difluorobenzenesulfonamide | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1F)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H17ClF4N4O2S2
